US05814648
To a mixture of 2-(3-bromobenzamido)-2(R)-phenylethan-1-ol (18 g, 56 mmol) and triphenylphosphine (19.2 g, 73 mmol)) in dry tetrahydrofuran (350 ml) cooled to -60° C. was added dropwise diethyl azodicarboxylate (12 ml, 73 mmol). The reaction mixture was allowed to warm to ambient temperature, stirred for 18 h and volatiles removed by evaporation. The residue was purified by column chromatography on silica gel eluting with ethyl acetate-hexane (=1:7) to afford 2-(3-bromophenyl)-4,5-dihydro-4(R)-phenyloxazole (10.9 g, 65%) as a pink liquid.

reactant | 2-(3-bromobenzamido)-2(R)-phenylethan-1-ol | 56 mmol, 18 g | BrC=1C=C(C(=O)N[C@@H](CO)C2=CC=CC=C2)C=CC1 | C15H14BrNO2
reactant | triphenylphosphine | 73 mmol, 19.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 73 mmol, 12 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 2-(3-bromophenyl)-4,5-dihydro-4(R)-phenyloxazole | 10.9 g, 65% | BrC=1C=C(C=CC1)C=1OC[C@H](N1)C1=CC=CC=C1 | C15H12BrNO
